US07396856B2
1,4-Dimethoxy-2-(2-methoxymethoxy-ethyl)-5-(2-nitropropenyl)-benzene
A mixture of 2,5-dimethoxy-4-(2-methoxymethoxy-ethyl)-benzaldehyde (3.00 g, 11.80 mmol) and ammonium acetate (0.91 g 11.80 mmol) in nitroethane (10 mL) was stirred at 70° C. for 2 h. After allowing the reaction mixture to cool down to room temperature, the solvent was removed under vacuum. The oily residue was purified by flash chromatography using a hexane and ethyl acetate gradient to give 0.9 g of yellow oil. MS (m/z) 211. 1HNMR(CDCl3): δ ppm 2.40 (s, 3H), 2.95 (m, 2H), 3.31 (s, 3H), 3.75 (m, 2H), 3.78 (s, 3H), 3.83 (s, 3H), 4.63 (s, 2H), 6.77 (s, 1H), 6.83 (s, 1H), 8.25 (s, 1H).

reactant | 2,5-dimethoxy-4-(2-methoxymethoxy-ethyl)-benzaldehyde | 11.80 mmol, 3.00 g | COC1=C(C=O)C=C(C(=C1)CCOCOC)OC | C13H18O5
reactant | ammonium acetate | 11.80 mmol, 0.91 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 10 mL | [N+](=O)([O-])CC | C2H5NO2
product | 1,4-Dimethoxy-2-(2-methoxymethoxy-ethyl)-5-(2-nitropropenyl)-benzene | 0.9 g | COC1=C(C=C(C(=C1)C=C(C)[N+](=O)[O-])OC)CCOCOC | C15H21NO6
